US05688795
A mixture of dimethylamine (30 g, 270 mmol) and sodium hydroxide (7.2 g, 180 mmol) in 60 mL of dioxane was stirred and 2-nitrobenzoyl chloride (23.8 mL, 180 mmol) in 100 mL of dioxane was added dropwise. The mixture was stirred at room temperature for approximately 12 hours and then partitioned between 100 mL of saturated sodium bicarbonate solution and 150 mL of ethyl acetate. The aqueous layer was extracted with ethyl acetate (2×100 mL) and the combined ethyl acetate was washed with brine, dried (Na2SO4) and concentrated. The residue was purified on silica gel by flash chromatography eluting with 4% methanol/methylene chloride to give N,N-dimethyl-2-nitrobenzamide (20 g, 103 mmol), m.p. 74°-76° C.

reactant | dimethylamine | 270 mmol, 30 g | CNC | C2H7N
reactant | sodium hydroxide | 180 mmol, 7.2 g | [OH-].[Na+]
reactant | 2-nitrobenzoyl chloride | 180 mmol, 23.8 mL | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | N,N-dimethyl-2-nitrobenzamide | 103 mmol, 20 g | CN(C(C1=C(C=CC=C1)[N+](=O)[O-])=O)C | C9H10N2O3
